US08426420B2
4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-(2,2-dimethyl-propionyloxymethoxycarbonyl)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 150 mg 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester in 7 ml acetone were added 40 mg chloromethylpivalate, 8 mg tetrabutylammonium iodide, 72 mg cesium carbonate and 61 μl triethylamine. The reaction mixture was refluxed for 4 h under argon. Additional 40 mg chloromethylpivalate, 8 mg tetrabutylammonium iodide, 72 mg cesium carbonate and 61 μl triethylamine were added and the suspension refluxed for another 7 h. The reaction mixture was concentrated and the residue was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 75 mg MS (ES+): m/e=796.

reactant | 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C33H43N7O9
reactant | chloromethylpivalate | 40 mg | ClCCC(C(=O)[O-])(C)C
reactant | cesium carbonate | 72 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triethylamine | 61 μl | C(C)N(CC)CC | C6H15N
reactant | chloromethylpivalate | 40 mg | ClCCC(C(=O)[O-])(C)C
reactant | cesium carbonate | 72 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triethylamine | 61 μl | C(C)N(CC)CC | C6H15N
solvent | acetone | 7 ml | CC(=O)C | C3H6O
catalyst | tetrabutylammonium iodide | 8 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrabutylammonium iodide | 8 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-(2,2-dimethyl-propionyloxymethoxycarbonyl)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OCOC(C(C)(C)C)=O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C39H53N7O11
